### PR TITLE
[Merged by Bors] - feat(Analysis/Asymptotics): continuous / analytic functions are `IsTheta` at a point

### PR DESCRIPTION
**Pull request by loefflerd**
Show that a function which is continuous and non-zero at a point `x` satisfies `f =Θ[𝓝 x] 1`, and a function analytic at `x₀` is `Θ[𝓝 x₀] fun x ↦ (x - x₀)^n` for suitable `n`.

In passing we also slightly generalize some existing asymptotics lemmas, allowing the domain to be a `NormedAddCommGroup` rather than a `NormedField`.

---
Reviewer suggestion from https://github.com/leanprover-community/mathlib4/pull/43644.

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Order.lean [hunk 1]
```diff
@@ -117,6 +118,15 @@ lemma AnalyticAt.analyticOrderAt_ne_top (hf : AnalyticAt 𝕜 f z₀) :
...
     analyticOrderNatAt]
 
+/-- An analytic function that does not vanish identically near a point is asymptotic, up to
+constant factors, to the corresponding power of the local parameter. -/
+lemma AnalyticAt.isTheta_pow_sub (hf : AnalyticAt 𝕜 f z₀) (hf' : analyticOrderAt f z₀ ≠ ⊤) :
+    f =Θ[𝓝 z₀] fun z ↦ (z - z₀) ^ analyticOrderNatAt f z₀ := by
+  obtain ⟨g, hg, hg0, hfg⟩ := hf.analyticOrderAt_ne_top.mp hf'
+  have hgΘ : g =Θ[𝓝 z₀] fun _ ↦ (1 : 𝕜) := hg.continuousAt.isTheta hg0
+  exact hfg.isTheta.trans <| by simpa using
+    (Asymptotics.isTheta_refl (fun z ↦ (z - z₀) ^ analyticOrderNatAt f z₀) (𝓝 z₀)).smul hgΘ
```
Comment (j-loreaux) [inline Mathlib/Analysis/Analytic/Order.lean:128]: Could you maybe add the `MeromorphicAt` version of this for `𝓝[≠] z₀`? It's fine if it needs to live in a different file (but maybe you could cross reference them in the docstrings). I guess if you assume `MeromorphicNFAt` you can probably get `𝓝 z₀`, but I won't push for that.

Comment (loefflerd) [reply Mathlib/Analysis/Analytic/Order.lean:128]: I implemented the `MeromorphicAt` and `MeromorphicNFAt` versions (using `WithTop.untop`, since there is no `meromorphicOrderNatAt`).

**Comment by j-loreaux** [comment]
Thanks! 

bors r+
